US09422324B2
Methods of Preparing (6R,8R,9S,13S,14S)-6-(6-methoxyhexyl)-13-methyl-7,8,9,11,12,13,14,15,16,17-decahydro-6H-cyclopenta[a]phenanthrene-3,17-diol (I)
(8R,9S,13S,14S,17S)-3,17-bis(methoxymethoxy)-13-methyl-7,8,9,11,12,13,14,15,16,17-decahydro-6H-cyclopenta[a]phenanthren-6-one—Dess-Martin Periodinane (9.46 g, 22.3 mmol) is added portionwise to a solution of the compound from b) (7.0 g, 18.6 mmol) in 300 mL of CH2Cl2. The resulting reaction mixture stirred at room temperature for 3 hours. The mixture is poured into water and the layers are separated. The aqueous layer is extracted with CH2Cl2, and the combined organic extracts are washed with brine, dried (Na2SO4), filtered, and evaporated in vacuo to give a gooey, brown solid. Purification by silica gel column chromatography (15%) EtOAc/Hex) affords the title compound as a pale yellow, viscous oil (6.0 g, 86%).

reactant | (8R,9S,13S,14S,17S)-3,17-bis(methoxymethoxy)-13-methyl-7,8,9,11,12,13,14,15,16,17-decahydro-6H-cyclopenta[a]phenanthren-6-one Dess-Martin Periodinane | 22.3 mmol, 9.46 g | COCOC=1C=CC=2[C@H]3CC[C@@]4([C@H](CC[C@H]4[C@@H]3CC(C2C1)=O)OCOC)C.CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C
reactant | water | O | H2O
reactant | CH2Cl2 | 300 mL | C(Cl)Cl | CH2Cl2
product | (6R,8R,9S,13S,14S)-6-(6-methoxyhexyl)-13-methyl-7,8,9,11,12,13,14,15,16,17-decahydro-6H-cyclopenta[a]phenanthrene-3,17-diol | COCCCCCC[C@H]1C=2C=C(C=CC2[C@H]2CC[C@@]3(C(CC[C@H]3[C@@H]2C1)O)C)O | C25H38O3
